Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Atorvastatin / Shellfish Derived / Lipitor
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ of "irregular heart rate" and pulmonary fibrosis on 4L at 
baseline presenting after a syncopal episode with head strike. 
Patient reports he had arisen to use the bathroom overnight 
without his oxygen and upon returning became dizzy and fell to 
the floor face down from a standing position. His wife was in 
bed and heard him fall and brought his oxygen over to him. He 
reports
that he lost consciousness for seconds but was not confused 
after waking up. Reported to be in afib by EMS with a rate of 
220 unsuccessfully cardioverted in the field. Patient brought to 
___ where he was started on a dilt drip and transferred to 
___ for a higher level of care. 

On presentation to ___ ___, patient denied any complaints, 
including no CP or worsening of his baseline shortness of 
breath. He does have some pain over his nose where he fell and 
has obvious trauma.

In the ___,
- Initial vitals: Febrile to ___ 95% 6L NC 
- Exam notable for: AAOx3, blood at the bilateral nares AOx3, 
crackles at b/l lung bases, heme negative non melanotic stool 
- Labs showed: WBC 10.5, Hgb 8.8, AST/ALT 47/61, AlkP 262, Tbili 
3.5, Dbili 2.6, VBG w/ normal pH, pCO2 60, UA with few bacteria 
(prior w/ positive nitrites) 
- Imaging showed: RUQ w/ CBD 4mm, no cholecystitis, CTA chest 
showing new extensive bulky mediastinal and bilateral hilar 
lymphadenopathy c/f malignancy 
- Patient received: 25 mg of IV dilt and 30 mg of PO dilt, Zosyn 
for ? intraabdominal infx and CTX for ? UTI, 2L IVF 
- Transfer VS were: 98 109/59 24 98% 4L NC 

On arrival to the floor, pt reports neck pain and endorses 
dysuria, frequency, and urgency for the past couple of days.  He 
denies any other acute complaints,
but does report that he has been feeling unwell for several 
months w/ increased fatigue, weight loss >10 lbs, and malaise.  
Reports several antibiotic courses for pneumonia over the summer 
and intermittent diarrhea since this time (C diff and FOBT 
negative). He denies increased dyspnea or cough above baseline, 
fevers or chills at home, nausea/vomiting, abdominal pain,back 
pain, headache, confusion, focal weakness.

REVIEW OF SYSTEMS: as above otherwise 10point ROS negative 
 
Past Medical History:
-Idiopathic pulmonary fibrosis on 4L 
-Elevated PSA/BPH, prostatitis 
-s/p traumatic arm and wrist fractures ___, normal BMD ___.
-Left retinal detachment, Right cataract surgery ___
-Gout, HTN, HLD, GERD 
-Bilateral knee surgeries. 
-Many squamous cell skin cancers
-Hypopituitarism s/p resection of an alpha subunit secreting
pituitary tumor in ___
 
Social History:
___
Family History:
Brother with COPD. Mother passed away of lung CA.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
==================
-Vitals: T 97.4 BP 139/71 HR 108 RR 28 O2 sat 92% 4L N C  
-General: Lying in bed, appears mildly dyspneic but not in acute 
distress
-HEENT: Several ecchymoses noted around face without frank 
bleeding. Sclerae anicteric, MMM, oropharynx clear. L 
conjunctival injection with mild discharge.
-Neck: tender to palpation of cervical vertebra, JVP not 
elevated, no LAD  
-Lungs: Clear anteriorly, unable to auscultate posteriorly ___ 
pain & stiffness
-CV: tachycardic, irregular rate, no murmurs auscultated
-GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no 
organomegaly  
-MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
-Neuro: CN2-12 intact, no focal deficits 

DISCHARGE PHYSICAL EXAM
=================
-Vitals: T 97.9 BP 111-131/66-77 HR ___ O2 sat 95% 4L NC  
-General: Lying in bed,  in acute distress
-HEENT: Several ecchymoses noted around face without frank 
bleeding. Sclerae anicteric, MMM, oropharynx clear. L 
conjunctival injection with mild discharge.
-Neck: tender to palpation of cervical vertebra, JVP not 
elevated, no LAD  
-Lungs: Clear to auscultation
-CV: regular rhythm with irregular rate, no murmurs auscultated
-GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no 
organomegaly  
-GU: Prostate firm with no tenderness to palpation
-MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
-Neuro: CN2-12 intact, no focal deficits
 
Pertinent Results:
ADMISSION LABS
===========
___ 09:25AM BLOOD WBC-10.5* RBC-3.19*# Hgb-8.0*# Hct-28.6*# 
MCV-90 MCH-25.1*# MCHC-28.0*# RDW-17.7* RDWSD-57.6* Plt ___
___ 09:25AM BLOOD ___ PTT-24.3* ___
___ 09:25AM BLOOD Glucose-82 UreaN-15 Creat-0.8 Na-142 
K-5.1 Cl-99 HCO3-30 AnGap-13
___ 05:15AM BLOOD ALT-43* AST-22 LD(LDH)-196 AlkPhos-211* 
TotBili-3.5*
___ 09:25AM BLOOD Lipase-42
___ 09:25AM BLOOD cTropnT-<0.01
___ 09:25AM BLOOD Calcium-8.2* Phos-3.5 Mg-1.4*
___ 09:25AM BLOOD Hapto-447*
___ 05:15AM BLOOD calTIBC-56* Ferritn-3039* TRF-43*
___ 05:15AM BLOOD Calcium-7.0* Phos-2.8 Mg-1.5* Iron-18*
___ 05:15AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 05:15AM BLOOD TSH-0.94
___ 05:15AM BLOOD tTG-IgA-4
___ 05:15AM BLOOD HCV Ab-NEG
___ 05:50PM BLOOD ___ pO2-44* pCO2-60* pH-7.40 
calTCO2-39* Base XS-9
___ 09:45AM BLOOD Lactate-2.5*
___ 05:50PM BLOOD Lactate-1.5

DISCHARGE LABS
===========
___ 06:22AM BLOOD WBC-11.1* RBC-3.24* Hgb-8.2* Hct-28.9* 
MCV-89 MCH-25.3* MCHC-28.4* RDW-17.7* RDWSD-57.5* Plt ___
___ 06:22AM BLOOD ___ PTT-34.4 ___
___ 06:22AM BLOOD Glucose-86 UreaN-15 Creat-0.7 Na-145 
K-4.9 Cl-102 HCO3-33* AnGap-10
___ 08:55AM BLOOD ALT-47* AST-23 LD(___)-228 AlkPhos-250* 
TotBili-4.0* DirBili-3.4* IndBili-0.6
___ 06:22AM BLOOD ALT-44* AST-23 LD(LDH)-220 AlkPhos-288* 
TotBili-3.0*
___ 06:22AM BLOOD Albumin-2.0* Calcium-9.1 Phos-3.3 Mg-1.7

MICROBIOLOGY
==========
___
-URINE CULTURE  ___ org/ml  Mixed bacterial 
flora

IMAGING
======
___ CTA CHEST
1.  Limited study due to respiratory motion.  Given the 
limitation, the
pulmonary arteries are patent to the segmental level.  
Subsegmental pulmonary arteries are difficult to evaluate.
2.  Extensive bulky mediastinal and bilateral hilar 
lymphadenopathy, new since ___.  While this may be 
either infectious or neoplastic in etiology, no convincing 
evidence of a primary pulmonary neoplasm or consolidation is 
seen.  Lymphoma should also be considered in the differential.
3.  Overall stable pulmonary fibrotic changes and subpleural 
microcalcifications.
4.  Stable mildly dilated pulmonary arteries, which can be seen 
in pulmonary arterial hypertension.

___ LIVER US: No acute process is demonstrated.  
Specifically, the gallbladder is normal. Debris noted in a large 
right renal cyst.
 
Brief Hospital Course:
Mr. ___ is an ___ man with a history of pulmonary 
fibrosis on 4L at baseline, and hypopituitarism on prednisone, 
presenting after a syncopal episode with head strike, found to 
have SVT, anemia, transaminitis, and hyperbilirubenemia and 
extensive mediastinal lymphadenopathy on imaging. 

#SVT with syncope:
Patient reports history of "irregular heart rate" not atrial 
fibrillation as per his cardiologist/PCP noted to have A fib 
with HR ___ s/p failed cardioversion as per EMS.  On admission 
he does have visible P waves consistent with atrial tachycardia 
and some episodes of sinus arrythmia. Tachyarrhythmia 
potentially triggered by UTI causing poor perfusion and 
subsequent syncope; SVT may have also been caused by hypoxia 
given pt was ambulating without O2. No intracranial process 
reassuring against stroke; no post-ictal period less consistent 
with seizure. Last TTE in ___ with mild LVH but preserved EF 
and no AS. Outpatient cardiologist indicated no known history of 
SVT. Rate was controlled with metoprolol PO after receiving 
diltiazem gtt and diltiazem pushes in the ___ and ___. The patient was stable on the floor with HR under 100 on 
oral metoprolol with occasional less than 10 beat runs of narrow 
complex tachycardia during which she patient was asymptomatic. 
Given the patient's wishes further cardiac workup was deferred 
to follow up appointment with PCP/cardiology, who agree. 

#Fever with Leukocytosis (sepsis) due to UTI
Infectious workup thus far notable for UA at ___ with 
leuks, blood, nitrites, and bacteria, with repeat UA at ___ 
bland after receiving ceftriaxone. No other suspected source of 
infection: no consolidation on CTA, LFTs elevated but without 
sign of infection on RUQUS, no meningismus or history of 
headache/confusion to indicate meningitis. He was treated with 
2L IVF for volume resuscitation and ceftriaxone.  Rectal exam 
without prostate tenderness or bogginess that would be 
suggestive of prostatitis. Urine culture with mixed flora but in 
setting of + urinary symptoms and sepsis without other source 
will plan for 10-day course to be completed with ciprofloxacin 
orally (last day ___. 

#Acute on chronic normocytic anemia: ___ labs indicate slow 
Hgb downtrend - 12.8 ___, 10.9 ___, now 8.0. No clear source 
of blood loss- no ecchymosis on exam, possible report of black 
stool or BRBPR, and guaic negative in ___. Bili/LDH elevated 
though haptoglobin normal making hemolysis less likely. Given 
the patient's chronic disease, elevated ferritin, and worsening 
adenopathy it is likely this is an anemia of inflammation and 
potentially related to malignancy. Given goals of care no 
further workup done.  Discharge Hb 8.2.

#Transaminitis, hyperbilirubinemia: Unclear etiology; new since 
___. No abdominal symptoms other than chronic diarrhea. 
RUQ-US without evidence of cholestasis. New anemia and high LDH, 
but hapto high arguing against hemolysis. Possible viral illness 
causing fever and hepatocellular injury. No signs of iron 
overload. Direct hyperbilirubinemia. Hepatitis serologies all 
with no history of exposure to viral hepatitis. He may have had 
a transient obstruction with gallstone but has no CBD 
dilatation.  Labs can be monitored outpatient if within goals of 
care. 

#Mediastinal lymphadenopathy: Noted on CTA. Possibly in setting 
of viral illness causing fever and transaminitis; however 
patient's history of chronic malaise potentially concerning for 
indolent/malignant process. The team reached out to Dr. ___, 
___ patient's pulmonologist who recommended that a biopsy should 
be avoided under all circumstances as this will likely cause a 
flare of fibrosis symptoms that could be fatal and would not be 
within the previously discussed goals of care.

#Coagulopathy: INR 1.8 and PTT mildly elevated. Possibly in 
setting of nutritional deficiency vs. liver disease as there was 
hyperbilirubinemia, low albumin without other signs of liver 
failure.

#IPF: On 4L O2 at baseline. The patient was continued on 
prednisone 20mg. Pirfenidone was held as this medication is 
non-formulary and patient reports intermittent compliance at 
home. His outpatient pulmonologist was contacted.

#BPH: Home alfuzosin non-formulary. Gave tamsulosin while 
inpatient.

#Hypothyroidism: Continued levothyroxine

TRANSITIONAL ISSUES
==============
#NEW MEDICATIONS
- Artificial Tears ___ DROP BOTH EYES PRN irritation 
- Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE QID Duration: 7 
Days 
- Fluticasone Propionate NASAL 1 SPRY NU BID PRN nasal 
congestion 
- Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days to complete 
___
- Metoprolol Succinate XL 25 mg PO DAILY 

[] Continue to follow up with Dr. ___ IPF and goals 
of care
[] Discuss outpatient cardiac holter ___ monitor, patient 
requested to speak with outpatient physicians about this rather 
than being discharged with the monitor
[] Urinary tract infection treatment to complete ___. Monitor 
for continuation of symptoms and consider repeat culture if he 
is still symptomatic as the culture was with mixed flora at ___ 
___.
[] Repeat LFT to trend Hyperbilirubinemia of unclear etiology. 
Normal liver ultrasound and no signs of obstruction
[] Trend CBC as there is no clear etiology for anemia, however, 
high ferritin suggestive of inflammation. 

#CODE: DNR/ DNI.  Patient is moving more toward comfort directed 
treatment declining aggressive care or further invasive workup 
at this time. He is close to declaring a do not hospitalize for 
himself. Family is supportive and agreement with this 
limitations of care. 
#COMMUNICATION: Wife, ___ 

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 20 mg PO DAILY 
2. pirfenidone 801 mg oral TID 
3. alfuzosin 10 mg oral DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. Testosterone 2 mg Patch 1 PTCH TD Q24H 

 
Discharge Medications:
1.  Artificial Tears ___ DROP BOTH EYES PRN irritation  RX 
*polyvinyl alcohol [Artificial Tears (polyvin alc)] 1.4 % 1 drop 
in each eye Every 6 hours Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 7 Days  RX 
*ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day Disp 
#*14 Tablet Refills:*0 
3.  Erythromycin 0.5% Ophth Oint 0.5 in LEFT EYE QID Duration: 7 
Days 
RX *erythromycin 5 mg/gram (0.5 %) 1 drop in the left eye four 
times a day Refills:*0 
4.  Fluticasone Propionate NASAL 1 SPRY NU BID PRN nasal 
congestion RX *fluticasone 50 mcg/actuation 1 spray intranasally 
twice a day Disp #*1 Spray Refills:*0 
5.  Metoprolol Succinate XL 25 mg PO DAILY RX *metoprolol 
succinate 25 mg 1 tablet(s) by mouth Daily Disp #*60 Tablet 
Refills:*1 
6.  alfuzosin 10 mg oral DAILY  
7.  Levothyroxine Sodium 75 mcg PO DAILY  
8.  pirfenidone 801 mg oral TID  
9.  PredniSONE 20 mg PO DAILY  
10.  Testosterone 2 mg Patch 1 PTCH TD Q24H  
11.ROLLING WALKER (DX: PULMONARY FIBROSIS ___, PX: Good, ___: 
13 months)
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Syncope
Supraventricular tachycardia
Urinary Tract Infection
Hyperbilirubinemia
Anemia

Secondary:
Idiopathic pulmonary fibrosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
after passing out. You were found to have a fast heart rate. You 
were given medications to slow the heart rate and now are on a 
medication to keep the heart at a normal rate. We believe an 
infection in the urine set off the events that caused this fast 
rhythm. You should continue antibiotics for 7 additional days to 
treat the urinary infection. Your last day will be on ___. 

You had a CT scan that showed the lymph nodes in your chest are 
getting larger. We discussed this with Dr. ___ 
recommended no further workup at this time.

After you leave the hospital:
- Talk to Dr. ___ a cardiac monitor for abnormal heart 
rhythm
- Follow up with Dr. ___
- ___ antibiotics until ___.

It was a pleasure taking care of you. We wish you the best in 
your health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___